US05071999
a) Ethyl 5-chloro-2,3-dimethyl-2,7-diazabicyclo[3.3.0]-octane-7-carboxylate
10.3 g (50 mmol) of ethyl N-(2-chloroallyl)-N-(2 -oxoethyl)-carbamate are heated under reflux overnight with 5.2 g (50.5 mmol) of N-methylalanine in 200 ml of toluene. The mixture is concentrated and the residue is distilled.

reactant | ethyl N-(2-chloroallyl)-N-(2 -oxoethyl)-carbamate | 50 mmol, 10.3 g | ClC(CN(C(OCC)=O)CC=O)=C | C8H12ClNO3
reactant | N-methylalanine | 50.5 mmol, 5.2 g | CN[C@@H](C)C(=O)O | C4H9NO2
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | Ethyl 5-chloro-2,3-dimethyl-2,7-diazabicyclo[3.3.0]-octane-7-carboxylate | ClC12CC(N(C2CN(C1)C(=O)OCC)C)C | C11H19ClN2O2
